US06235731B1
2) Synthesis of cis-1-tert-butoxycarbonyl-3,5-dimethyl-4-benzyl piperazine
To a suspension of 10 g (46.66 mmol.) of cis-1-tert-butoxycarbonyl-3,5-dimethyl piperazine and 12.90 g (93.3 mmol.) of potassium carbonate in N,N-dimethylformamide (100 ml) was added, at room temperature, 11.97 g (70 mmol.) of benzyl bromide. The mixture was stirred for 16 hours at 120° C. To the reaction system was added water, which was subjected to extraction with ethyl acetate. The organic layer was washed with a saturated aqueous saline solution, which was dried over magnesium sulfate, followed by distilling off the solvent. The residue was purified by means of a column chromatography (ethyl acetate/hexane 30%) to give the object compound as a pale yellow oily product. The yield was 13.56 g (95%).

reactant | cis-1-tert-butoxycarbonyl-3,5-dimethyl piperazine | 46.66 mmol, 10 g | C(C)(C)(C)OC(=O)N1C[C@H](N[C@H](C1)C)C | C11H22N2O2
reactant | potassium carbonate | 93.3 mmol, 12.90 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 70 mmol, 11.97 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | cis-1-tert-butoxycarbonyl-3,5-dimethyl-4-benzyl piperazine | C(C)(C)(C)OC(=O)N1C[C@H](N([C@H](C1)C)CC1=CC=CC=C1)C | C18H28N2O2
